US08115006B2
Preparation (1) of methyl (E)-3-(6-chloro-4-oxo-4H-benzo[d][1,3]oxazin-2-yl)acrylate
A mixed solution comprising 1.49 g of methanesulfonyl chloride and 10 ml of acetonitrile was cooled with ice, and 10 ml of an acetonitrile solution comprising 1.3 g of monomethyl maleate and 1.34 g of pyridine was dropwise added thereto under cooling with ice over a period of 5 minutes, followed by stirring for 5 minutes at the same temperature. 10 ml of an acetonitrile solution comprising 1.72 g of 5-chloroanthranilic acid and 2.77 g of pyridine was added under cooling with ice over a period of 2 minutes, followed by rinsing with 5 ml of acetonitrile and stirring for 20 minutes at the same temperature. 1.49 g of methanesulfonyl chloride was added over a period of 2 minutes under cooling with ice, followed by rinsing with 2 ml of acetonitrile and stirring for 30 minutes, and then the temperature was returned to room temperature, followed by reaction for 4 hours. The reaction liquid was poured to 20 ml of water, followed by stirring for 30 minutes. The resulting crystals were collected by filtration, washed with water and a mixed liquid of acetonitrile:water (2:1), and dried to obtain 1.82 g of the brown desired product (melting point: 162 to 164° C.).

reactant | methanesulfonyl chloride | 1.49 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | monomethyl maleate | 1.3 g | C(\C=C/C(=O)[O-])(=O)OC
reactant | 5-chloroanthranilic acid | 1.72 g | ClC1=CC=C(C(C(=O)O)=C1)N | C7H6ClNO2
solvent | water | 20 ml | O | H2O
solvent | pyridine | 2.77 g | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | pyridine | 1.34 g | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl (E)-3-(6-chloro-4-oxo-4H-benzo[d][1,3]oxazin-2-yl)acrylate | 1.82 g | ClC1=CC2=C(N=C(OC2=O)/C=C/C(=O)OC)C=C1 | C12H8ClNO4
